US05929085
(c) 7-Amino-1-methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazapine hydrochloride
7-Nitro-1-methyl-3,4-dihydro-1H-benzo[e][1,4]diazapine hydrochloride (3.2 g, 13.1 mmol) was dissolved in methanol (100 ml) and hydrogenated at 50 psi in the presence of a catalytic quantity of 10% Pd--C. After 1 h the mixture was filtered through glass and evaporated to an oil which was used immediately in the next reaction.

reactant | 7-Nitro-1-methyl-3,4-dihydro-1H-benzo[e][1,4]diazapine hydrochloride | 13.1 mmol, 3.2 g | Cl.[N+](=O)([O-])C1=CC2=C(N(CCNC2)C)C=C1
solvent | methanol | 100 ml | CO | CH4O
product | 7-Amino-1-methyl-2,3,4,5-tetrahydro-1H-1,4-benzodiazapine hydrochloride | Cl.NC=1C=CC2=C(CNCCN2C)C1 | InChI=1S/C10H15N3.ClH/c1-13-5-4-12-7-8-6-9(11)2-3-10(8)13;/h2-3,6,12H,4-5,7,11H2,1H3;1H
